US05240935
To a solution of diisopropylamine (13.2 mL, 94 mmol) in THF (175 mL) at -60° C. under nitrogen was added n-BuLi (36.2 mL, 4 mmol, 2.6M hexane). The mixture was stirred for 30 minutes, cooled to -78° C. and ethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylate (26.8 g, 85 mmol) in THF (225 mL) was added. The mixture was stirred for 3 hours, then ethyl chloroformate (8.96 mL, 94 mmol) in THF (20 mL) was added dropwise. The mixture was stirred for 24 hours, quenched with saturated NH4Cl, and poured into water (1000 mL). The solution was extracted with ether (3X), and the organic layers were combined and dried over MgSO4. The ether layer was treated with charcoal and the solvent was removed in vacuo to afford 32.1 g (97%) of diethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo-[2.2.2] octane-6,6-dicarboxylate as a golden oil. The product was dissolved in ether and treated with ethereal HCl to afford 24 g (66%) of the hydrochloride salt as a white solid, m.p. 160°-162° C.

reactant | diisopropylamine | 94 mmol, 13.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylate | 85 mmol, 26.8 g | CC1N(C2C(CC1(C(C2)C)C)C(=O)OCC)CC2=CC=CC=C2 | C20H29NO2
reactant | ethyl chloroformate | 94 mmol, 8.96 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 175 mL | C1CCOC1 | C4H8O
solvent | THF | 225 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | n-BuLi | 4 mmol, 2.6M, 36.2 mL | [Li]CCCC
product | diethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo-[2.2.2] octane-6,6-dicarboxylate | 32.1 g, 97% | CC1N(C2C(CC1(C(C2)C)C)(C(=O)OCC)C(=O)OCC)CC2=CC=CC=C2 | C23H33NO4
